US07750003B2
4-[4-(2-Cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline
A mixture of 2-chloro-4-(2-cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (1.18 g, 2.94 mmol), 2M aqueous sodium carbonate solution (5.5 mL, 11.00 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.907 g, 4.14 mmol) in a mixture of DMF (5 mL), water (12.50 mL), ethanol (5.00 mL) and DME (5.00 mL) was purged with nitrogen for 10 minutes before being treated with bis(triphenylphosphine)palladium(II) chloride (0.111 g, 0.16 mmol). The stirred mixture was heated to 80° C. and stirred under nitrogen for 2.5 hours. The reaction mixture was cooled and treated with ethyl acetate (50 mL) and water (50 mL). The organic layer was separated and the aqueous re-extracted with ethyl acetate (2×30 mL). The combined organics were washed with brine, dried (MgSO4) and evaporated to afford the crude product, which was purified by flash silica chromatography, elution gradient 25 to 75% ethyl acetate in isohexane, to give the desired material (1.130 g).

reactant | 2-chloro-4-(2-cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 2.94 mmol, 1.18 g | ClC1=NC(=CC(=N1)C(C)(C)S(=O)(=O)C1CCCCC1)N1[C@H](COCC1)C | C18H28ClN3O3S
reactant | sodium carbonate | 11.00 mmol, 2M, 5.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 4.14 mmol, 0.907 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.16 mmol, 0.111 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 5.00 mL | COCCOC | C4H10O2
solvent | ethanol | 5.00 mL | C(C)O | C2H6O
solvent | water | 12.50 mL | O | H2O
product | 4-[4-(2-Cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.130 g | C1(CCCCC1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H34N4O3S
